US07834008B2
For n=2: (1S,2R)-2-[3-(4-Acetylamino-4-phenyl-piperidin-1-yl)-propyl]-1-(3,4-dichlorophenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide
(1S,2S)-2-[(E)-3-(4-Acetylamino-4-phenyl-piperidin-1-yl)-propenyl]-1-(3,4-dichloro-phenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide (65 mg, 0.11 mmol) is dissolved in dichloromethane (10 ml). N2 is bubbled through the solution for 15 minutes before adding Crabtree's catalyst (17.7 mg, 0.022 mmol, [(1,5-cyclooctadiene)(pyridine)(tricyclohexylphosphine)iridium(I) hexafluorophosphate]). The reaction mixture is hydrogenated at a Parr apparatus (ambient temperature, 3 atm. H2) for 3 hours. The solvent is removed by evaporation and the residue is subjected to silica gel chromatography eluting with ethyl acetate:ethanol:triethylamine (95:0:5)-(85:10:5). Evaporation from heptane furnishes the title compound as a white solid. Yield 25 mg (38%).

reactant | (1S,2S)-2-[(E)-3-(4-Acetylamino-4-phenyl-piperidin-1-yl)-propenyl]-1-(3,4-dichloro-phenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide | 0.11 mmol, 65 mg | FC1=CC=C(CN(C(=O)[C@@]2([C@@H](C2)\C=C\CN2CCC(CC2)(C2=CC=CC=C2)NC(C)=O)C2=CC(=C(C=C2)Cl)Cl)C)C=C1 | C34H36Cl2FN3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | Crabtree's catalyst | 0.022 mmol, 17.7 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1/C=C\CC/C=C\C1.C1=CC=NC=C1.F[P-](F)(F)(F)(F)F.[Ir]
product | (1S,2R)-2-[3-(4-Acetylamino-4-phenyl-piperidin-1-yl)-propyl]-1-(3,4-dichlorophenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide | FC1=CC=C(CN(C(=O)[C@@]2([C@@H](C2)CCCN2CCC(CC2)(C2=CC=CC=C2)NC(C)=O)C2=CC(=C(C=C2)Cl)Cl)C)C=C1 | C34H38Cl2FN3O2
